US06897210B2
Isobutyl chloroformate (88 mg, 5.9 mmol) was added to a stirred solution of 7-(3-aminopropoxy)4-chloro-2-fluoroanilino)-6-methoxyquinazoline trifluoroacetate (151 mg, 0.4 mmol) and triethylamine (0.2 ml 1.4 mmol) in THF (15 ml). The reaction mixture was stirred at ambient temperature for 30 minutes and the volatiles were removed by evaporation. The residue was dissolved in methylene chloride, the solution was washed with aqueous sodium hydrogen carbonate solution and then brine, dried (MgSO4) and the solvent was removed by evaporation. The residue was recrystallised from acetonitrile to give 4-(4-chloro-2-fluoroanilino)-7-(3-[N-isobutoxycarbonylamino]propoxy-6-methoxyquinazoline (41.2mg, 20%) as a white solid.

reactant | Isobutyl chloroformate | 5.9 mmol, 88 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-methoxyquinazoline trifluoroacetate | 0.4 mmol, 151 mg | FC(C(=O)O)(F)F.COC=1C=C2C=NC=NC2=CC1
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-[N-isobutoxycarbonylamino]propoxy-6-methoxyquinazoline | 41.2mg, 20% | C(C(C)C)OC(=O)NCCCOC1=NC2=CC=C(C=C2C=N1)OC | C17H23N3O4
